US05912246
A mixture of 2-amino-5-ethoxypyridine (1.53 g; prepared by the method of Lombardino, J. Med. Chem. 1981, 24, 39-42), 1,3-dichloroacetone (Aldrich; 1.115 g), and dimethoxyethane (7 mL) is stirred overnight at room temperature. The mixture is concentrated under reduced pressure and ethanol (22.5 mL) is added. After the mixture is stirred for 30 min at 80° C., it is cooled and then concentrated under reduced pressure. The residue is partitioned between dichloromethane and saturated aq. sodium bicarbonate. The combined organic layers are dried with MgSO4 and concentrated under reduced pressure. The residue is chromatographed on silica gel using methanol/dichloromethane (4/96) and crystallized from ether/dichlormethane/hexane to give 0.94 g of 2-(chloromethyl)-6-ethoxyimidazo[1,2-α]pyridine in three crops; mp 95-96° C.; MS m/z 210, 212; IR (mineral oil) 1192, 1263, 810, 1537, 1511 cm-1 ; 1H NMR (CDCl3) δ1.45, 3.97, 4.75, 6.98, 7.46, 7.55, 7.58.

reactant | 2-amino-5-ethoxypyridine | NC1=NC=C(C=C1)OCC | C7H10N2O
reactant | 1,3-dichloroacetone | 1.115 g | ClCC(=O)CCl | C3H4Cl2O
solvent | dimethoxyethane | 7 mL | C(OC)COC | C4H10O2
product | 2-(chloromethyl)-6-ethoxyimidazo[1,2-α]pyridine | 0.94 g | ClCC=1N=C2N(C=C(C=C2)OCC)C1 | C10H11ClN2O
